US04339600
3-Hydroxy-N-(3-mercaptopropanoyl)-L-tyrosine
3-Hydroxy-N-(3-acetylthiopropanoyl)-L-tyrosine (280 mg.) is treated with concentrated ammonium hydroxide according to the procedure in Example 76. The crude product, 3-hydroxy-N-(3-Mercaptopropanoyl)-L-tyrosine is crystallized from acetonitrile, yield 157 mg., m.p. 89°-91°.

reactant | 3-Hydroxy-N-(3-acetylthiopropanoyl)-L-tyrosine | 280 mg | OC=1C=C(C[C@H](NC(CCSC(C)=O)=O)C(=O)O)C=CC1O | C14H17NO6S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-Hydroxy-N-(3-mercaptopropanoyl)-L-tyrosine | OC=1C=C(C[C@H](NC(CCS)=O)C(=O)O)C=CC1O | C12H15NO5S
